US04223136
To a solution of 27 parts of triphenylphosphine in a mixture of 195 parts of acetonitrile with 400 parts of carbon tetrachloride is added 12 parts of a 1:1 solvate of 2,3-dihydro-8-nitro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile 10-oxide with N,N-dimethylformamide. The resultant mixture is heated at the boiling point under reflux with stirring for 15 minutes, then chilled. The precipitate which forms is isolated by filtration and recrystallized from a mixture of N,N-dimethylformamide and methanol to give 2,3-dihydro-8-nitro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile solvated 2:1 with N,N-dimethylformamide which melts above 305°. The solvent of crystallization can be removed by heating at around 200° in vacuo.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetonitrile | C(C)#N | C2H3N
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 2,3-dihydro-8-nitro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile 10-oxide | [N+](=O)([O-])C1=CC2=C(NC=3C(S2=O)=CNC(C3C#N)=O)C=C1 | C12H6N4O4S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,3-dihydro-8-nitro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile | [N+](=O)([O-])C1=CC2=C(NC=3C(S2)=CNC(C3C#N)=O)C=C1 | C12H6N4O3S
